US07105680B1
Production of 2-(5-methoxy-2-methoxymethoxyphenyl)-4-(2-pyridylmethyl)aminomethylbenzoxazole (F16)
A mixture of 4-bromomethyl-2-(5-methoxy-2-methoxymethoxyphenyl)benzoxazole (F12) (567 mg, 1.5 mmol), 2-(aminomethyl)pyridine (1.08 g, 10 mmol), and Na2CO3 (excess) in CH3CN (30 mL) was stirred overnight at room temperature. After filtration of the reaction mixture, the filtrate was concentrated in vacuo. Water (20 mL) was added to the residue, which was extracted with CHCl3 (20 mL) three times. The combined organic layer was washed with brine and water, dried over MgSO4, and evaporated. The resulting oily material was purified by silica gel column chromatography (CHCl3-ethyl acetate) to afford the objective compound as a pale yellow oil (386 mg, 63%). 1H-NMR (400 MHz, CDCl3) δ3.52 (s, 3H), 3.87 (s, 3H), 4.01 (s, 2H), 4.30 (s, 2H), 5.23 (s, 2H), 7.02 (dd, 1H, J=9.2, 1.2 Hz), 7.15 (dd, 1H, J=7.6, 4.4 Hz), 7.21 (d, 1H, J=9.2 Hz), 7.29–7.36 (m, 2H), 7.41 (d, 1H, J=7.6 Hz), 7.49 (d, 1H, J=7.6 Hz), 7.62–7.65 (m, 2H), 8.55 (d, 1H, J=4.4 Hz).

reactant | 4-bromomethyl-2-(5-methoxy-2-methoxymethoxyphenyl)benzoxazole | 1.5 mmol, 567 mg | BrCC1=CC=CC2=C1N=C(O2)C2=C(C=CC(=C2)OC)OCOC | C17H16BrNO4
reactant | 2-(aminomethyl)pyridine | 10 mmol, 1.08 g | NCC1=NC=CC=C1 | C6H8N2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | 2-(5-methoxy-2-methoxymethoxyphenyl)-4-(2-pyridylmethyl)aminomethylbenzoxazole | 386 mg, 63% | COC=1C=CC(=C(C1)C=1OC2=C(N1)C(=CC=C2)CNCC2=NC=CC=C2)OCOC | C23H23N3O4
